Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / Tylenol-Codeine / Cipro / Penicillins
 
Attending: ___.
 
Chief Complaint:
shortness of breath, wheezing
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI(4): Ms. ___ is a ___ year-old female with history of HTN,
HLD, hypothyroidism, depression and prior SI/SA, active smoker,
recently admitted to ___ for pneumonia who presents with 3 days
of wheezing worsening SOB. 

Patient doesn't carry a formal diagnsosis of COPD but was
recently started on Anoro Ellipta and completed a recent course
of prednisone after an admission to ___ 3 weeks ago for 
pneumonia
and presumed COPD exacerbation. She states when she left the
hospital she was feeling significantly improved but about 3 days
ago she began to feel more labored and wheezing more. She has
been using her daily inhaler as well as albuterol rescue inhaler
at times every 4 hours and reports relief of symptoms when she
uses it. She notes that she has been "couch surfing" and 2 days
ago was actually out in the rain in her summer clothes because
she was asked to leave ___ after 11 and had nowhere to
go. She continues to smoke about 1 pack per day though states 
she
doesn't need nicotine replacement therapy. She notes significant
leg swelling recently in the setting of recent prednisone course
though they have improved significantly since. She reports they
did rule out DVT with ultrasound. She did have PFTs done in
___ somewhere in ___ but had to come back here
after and never got the results. She reports stable 2 pillow
orthopnea which she attributes to a combination of neck pain as
wel as shortness of breath if she were to lay flat. She denies
PND or having to wake up in the middle of the night to use her
rescue inhaler. She thinks she does sometimes snore but has 
never
been tested for OSA. Today due to worsening SOB, DOE, and
wheezing she presented to the ED for further eval. She 
attributes
her presentation to being under stress, in crowded settings and
around sick people or out in the rain.

In the ED: 
VS: 97.8 86 140/74 18 95% RA 
PE: Wheezing and crackles with expiration bilaterally, 
symmetric,
normal work of breathing. Nonpitting edema of both legs to knees 

Labs: Trop-T: <0.01, pH 7.38 pCO2 47 pO2 39 HCO3 29 BaseXS 1,
proBNP: 56, WBC 11.6
Imaging: CXR: No acute cardiopulmonary process.
Interventions: 80mg IV solumedrol, duonebs x3, Azithromycin 
50omg
IV
Impression/Course: "Patient with COPD, recent admission for
pneumonia. Patient wheezing on arrival and reporting of dyspnea.
After multiple nebs, steroids, patient still wheezing with
decreasing oxygen saturation to 93%. Patient presently dyspneic,
with unchanged wheezing. Admitting to medicine for COPD
exacerbation."  

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
-Suspected COPD
-Hypertension
-Hyperlipidemia
-Anxiety / Depression
-History of suicide attempt (by prescription pill ingestion)
-History of hyperthyroidism / Graves' s/p thyroidectomy now with
hypothyroidism
-Osteoarthritis of knee
-Bursitis of shoulder
-History of bowel obstruction s/p ex lap
-History of aspiration and hypoxic respiratory failure
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
ADMISSION EXAM(8)
VS: Temp: 97.6 PO BP: 134/85 HR: 96 RR: 20 O2 sat: 92% O2
delivery: RA   
Gen - obese, nontoxic appearing
Eyes - anicteric sclera, ? exophthalmos (old)
ENT - thick neck
Heart - RRR, no r/m/g
Lungs - diminished in bases, occasional exp wheeze, mildy
labored, forced upper airway wheeze as well
Abd - soft, ntnd
Ext - ___ nonpitting edema to legs bilaterally
Skin - no obvious skin breakdown on cursory skin exam
Vasc - WWP
Neuro - A&Ox4, moving all extremities
Psych - pleasant, calm cooperative, forthcoming with information
when asked, tearful at times when discussing homelessness and
recent suicide attempt, able to contract for safety, denies
active SI or thoughts of self harm presently, mild anxiety 
apparent, linear thought process, forward thinking

DISCHARGE EXAM:
97.4 PO 128 / 69 80 19 95 Ra  
Gen: NAD, lying in bed
Eyes: EOMI, sclera anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, expiratory 
wheezes,
lungs CTA ___.
GI: soft, NT, ND, BS+
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect
 
Pertinent Results:
ADMISSION LABS:
___ 10:45PM BLOOD WBC-11.6* RBC-4.33 Hgb-12.5 Hct-38.9 
MCV-90 MCH-28.9 MCHC-32.1 RDW-15.2 RDWSD-50.4* Plt ___
___ 10:45PM BLOOD Glucose-144* UreaN-12 Creat-0.7 Na-143 
K-4.0 Cl-105 HCO3-24 AnGap-14
___ 07:10AM BLOOD ALT-22 AST-20 LD(LDH)-221 AlkPhos-116* 
TotBili-0.6
___ 10:45PM BLOOD proBNP-56
___ 10:45PM BLOOD cTropnT-<0.01
___ 10:56PM BLOOD ___ pO2-39* pCO2-47* pH-7.38 
calTCO2-29 Base XS-1

Imaging:
Admission CXR:
No acute cardiopulmonary process

Discharge Labs:
___ 10:58AM BLOOD ___-10.6* RBC-4.57 Hgb-13.1 Hct-41.5 
MCV-91 MCH-28.7 MCHC-31.6* RDW-15.5 RDWSD-51.1* Plt ___
___ 06:40AM BLOOD Glucose-79 UreaN-12 Creat-0.7 Na-145 
K-4.3 Cl-109* HCO3-23 AnGap-___ year-old female with history of HTN, HLD, hypothyroidism, 
depression and prior SI/SA, active smoker, recently admitted to 
___ for pneumonia who presents with 3 days of wheezing worsening
SOB.  

ACUTE/ACTIVE PROBLEMS:
#Shortness of breath 
#Presumed Acute COPD exacerbation 
#Active smoker: Wheezing on presentation with acute COPD 
exacerbation with poor social situation.  CXR clear. She was 
treated for a presumed COPD exacerbation with a 5 day burst of 
prednisone, azithromycin and nebulizers with improvement in her 
symptoms. Her ambulatory O2 sat was >90% on room air prior to 
discharge. She was seen by social work to assist with resources. 
She will likely benefit from outpatient PFTs and likely sleep 
study as well. 

CHRONIC/STABLE PROBLEMS:

#Depression #History of SI - follows with Dr. ___ in 
psychiatry at ___, therapist ___. Denies current 
SI. 
-continued home sertraline and bupropion
-replaced home melatonin with ramelteon while in the hospital 
and then restarted on discharge
- She was given PRN flexeril as an inpatient but no prescription 
was provided on discharge given prior SI attempt. 

#HTN - continued home losartan

#HLD - continued home crestor

#GERD - continued home PPI, takes as needed

#Hypothyroidism - continued home synthroid

Greater than 30 minutes spent in care coordination and 
counseling on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 5 mg PO QPM 
2. BuPROPion XL (Once Daily) 300 mg PO DAILY 
3. Metoprolol Tartrate 50 mg PO BID 
4. Sertraline 200 mg PO DAILY 
5. Losartan Potassium 50 mg PO DAILY 
6. Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 mcg/actuation 
inhalation 1 puff daily 
7. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheeze 
8. Levothyroxine Sodium 125 mcg PO DAILY 
9. Omeprazole 20 mg PO BID:PRN reflux 
10. melatonin 6 mg oral QHS:PRN sleep 
11. Cyclobenzaprine 10 mg PO BID:PRN back pain 

 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H Duration: 2 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0 
2.  PredniSONE 40 mg PO DAILY Duration: 2 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0 
3.  Albuterol Inhaler 1 PUFF IH Q6H:PRN wheeze  
4.  Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 
mcg/actuation inhalation 1 puff daily  
5.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  Losartan Potassium 50 mg PO DAILY  
8.  melatonin 6 mg oral QHS:PRN sleep  
9.  Metoprolol Tartrate 50 mg PO BID  
10.  Omeprazole 20 mg PO BID:PRN reflux  
11.  Rosuvastatin Calcium 5 mg PO QPM  
12.  Sertraline 200 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute COPD exacerbation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms ___,

It was a plaure taking care of you while you were in the 
hospital. You were admitted with an exacerbation of COPD and 
were treated with antibiotics and steroids. Your breathing 
improved and you are stable for discharge. You also worked with 
the social workers at the ___ about trying to get more 
stable housing and you discussed your options. Please take your 
medications as directed and follow up with your PCP as noted 
below. 
 
Followup Instructions:
___